US06323197B1
120 mg of 9-bromo-8-methyl-5-phenyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine is mixed in 15 ml of tetrahydrofuran at −78° C. with 0.36 ml of butyllithium (hexane, 1 mol) and stirred for 15 minutes. It is then mixed at this temperature with 0.6 ml of dimethylformamide and stirred for 15 minutes. After stirring to room temperature, it is mixed with water, the tetrahydrofuran is distilled off and extracted with ethyl acetate. After the solvent is distilled off, it is chromatographed on silica gel with dichloromethane:ethanol=95:5 as an eluant. 46 mg of 9-formyl-8-methyl-5-phenyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine is obtained.

reactant | 9-bromo-8-methyl-5-phenyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine | 120 mg | BrC=1N=C2N(N=C(C3=C(C2)C=C2C(=C3)OCO2)C2=CC=CC=C2)C1C | C19H14BrN3O2
reactant | butyllithium | 1 mol, 0.36 ml | C(CCC)[Li]
reactant | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 9-formyl-8-methyl-5-phenyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine | 46 mg | C(=O)C=1N=C2N(N=C(C3=C(C2)C=C2C(=C3)OCO2)C2=CC=CC=C2)C1C | C20H15N3O3
